US03991202
1-[2,4-Dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-(m-methylbenzyl)imidazolium bromide;
mp. 99°-101° C., by the reaction of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazole and m-methylbenzyl bromide.

reactant | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-imidazole | ClC1=C(C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H14Cl4N2O
reactant | m-methylbenzyl bromide | CC=1C=C(CBr)C=CC1 | C8H9Br
product | 1-[2,4-Dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-(m-methylbenzyl)imidazolium bromide | [Br-].ClC1=C(C(C[N+]2=CN(C=C2)CC2=CC(=CC=C2)C)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | InChI=1S/C26H23Cl4N2O.BrH/c1-18-3-2-4-19(11-18)14-31-9-10-32(17-31)15-26(23-8-7-22(28)13-25(23)30)33-16-20-5-6-21(27)12-24(20)29;/h2-13,17,26H,14-16H2,1H3;1H/q+1;/p-1
